US07122543B2
(S)-N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridyl)benzoyl]-1-phenyl-ethylamine
(S)-N-[3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]-1-phenylethylamine (64 mg, 0.1216 mmol) was dissolved in a mixed solvent of acetonitrile (9 ml) and water (3 ml), then CAN (166 mg, 0.3029 mmol) was added thereto at room temperature and the mixture was stirred for 3 hours. The reaction solution was poured into water, neutralized with a saturated aqueous solution of sodium hydrogen carbonate and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer silica gel (hexane:ethyl acetate=1:3) to give the title compound (30 mg, 0.0604 mmol, 50%).

reactant | (S)-N-[3-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]-1-phenylethylamine | 0.1216 mmol, 64 mg | COC=1C(=C(CC=2C(=C(C(=O)N[C@@H](C)C3=CC=CC=C3)C=CC2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C32H34N2O5
reactant | CAN | 0.3029 mmol, 166 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | (S)-N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridyl)benzoyl]-1-phenyl-ethylamine | 0.0604 mmol, 30 mg, 50% | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)N[C@@H](C)C2=CC=CC=C2)C=CC1)C1=CC=NC=C1)C)=O | C30H28N2O5
